US05011842
A mixture of 3.3 parts of 3-(2-ethoxyethyl)-2-[4-(1-piperazinyl)butyl]-3H-imidazo[4,5-b]pyridine, 2.9 parts of 2-(chloromethyl)-3-(2-ethoxyethyl) -3H-imidazo[4,5-b]pyridine, 1.2 parts of sodium carbonate and 22.5 parts of N,N-dimethylacetamide was stirred for 6 hours at 70° C. The reaction mixture was evaporated and the residue was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was converted into the ethanedioate salt in 2-propanol. The salt was filtered off and crystallized from 2-propanol. The product was filtered off and dried, yielding 0.7 parts (6.8%) of 3-(2-ethoxyethyl)-2-[[4-[4-[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]butyl]-1-piperazinyl]methyl]-3H-imidazo[4,5-b]pyridine ethanedioate(1:6); mp. 121.9° C. (compound 24).

reactant | 3-(2-ethoxyethyl)-2-[4-(1-piperazinyl)butyl]-3H-imidazo[4,5-b]pyridine | C(C)OCCN1C(=NC=2C1=NC=CC2)CCCCN2CCNCC2 | C18H29N5O
reactant | 2-(chloromethyl)-3-(2-ethoxyethyl) -3H-imidazo[4,5-b]pyridine | ClCC1=NC=2C(=NC=CC2)N1CCOCC | C11H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 3-(2-ethoxyethyl)-2-[[4-[4-[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]butyl]-1-piperazinyl]methyl]-3H-imidazo[4,5-b]pyridine ethanedioate | 6.8% | C(C(=O)O)(=O)O.C(C)OCCN1C(=NC=2C1=NC=CC2)CN2CCN(CC2)CCCCC2=NC=1C(=NC=CC1)N2CCOCC | InChI=1S/C29H42N8O2.C2H2O4/c1-3-38-21-19-36-26(32-24-9-7-12-30-28(24)36)11-5-6-14-34-15-17-35(18-16-34)23-27-33-25-10-8-13-31-29(25)37(27)20-22-39-4-2;3-1(4)2(5)6/h7-10,12-13H,3-6,11,14-23H2,1-2H3;(H,3,4)(H,5,6)
